US03984293
When 5-butyl-4-imidazolecarboxylic acid is substituted for 5-methyl-4-imidazolecarboxylic acid in the general procedure of Example 4, 4-hydroxymethyl-5-butylimidazole is produced.

reactant | 5-butyl-4-imidazolecarboxylic acid | C(CCC)C1=C(N=CN1)C(=O)O | C8H12N2O2
reactant | 5-methyl-4-imidazolecarboxylic acid | CC1=C(N=CN1)C(=O)O | C5H6N2O2
product | 4-hydroxymethyl-5-butylimidazole | OCC=1N=CNC1CCCC | C8H14N2O
